US07238707B2
2-Cyclohexylmethyl-4-methyl-4-phenyl-1,2-pentanediol
Analogously to Example 1, 290 mg of 2-cyclohexylmethyl-2-hydroxy-4-methyl-4-phenylpentanoic acid-ethyl ester is converted with 76 mg of lithium aluminum hydride into 160 mg of product.

reactant | 2-cyclohexylmethyl-2-hydroxy-4-methyl-4-phenylpentanoic acid-ethyl ester | 290 mg | C(C)OC(C(CC(C)(C1=CC=CC=C1)C)(O)CC1CCCCC1)=O | C21H32O3
reactant | lithium aluminum hydride | 76 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 2-Cyclohexylmethyl-4-methyl-4-phenyl-1,2-pentanediol | C1(CCCCC1)CC(CO)(CC(C)(C1=CC=CC=C1)C)O | C19H30O2
